US07288658B2
50.00 g (524.01 mmol) 2-chloroacetamide were suspended in 100 ml acetonitrile. 41.45 g (524.01 mmol) pyridine were added, and the suspension was heated at 90° C. for 10 hours. The suspension was cooled to 22° C., suction filtered and washed with 100 ml hexane. The product 1-carbamoylmethyl-pyridinium chloride (79.10 g) was obtained as colorless crystals after being recrystallized from ethanol, m.p 205.2° C.

reactant | 2-chloroacetamide | 524.01 mmol, 50.00 g | ClCC(=O)N | C2H4ClNO
reactant | pyridine | 524.01 mmol, 41.45 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-carbamoylmethyl-pyridinium chloride | 79.10 g | [Cl-].C(N)(=O)C[N+]1=CC=CC=C1 | InChI=1S/C7H8N2O.ClH/c8-7(10)6-9-4-2-1-3-5-9;/h1-5H,6H2,(H-,8,10);1H
